US06352982B1
N,O-Dimethylhydroxylamine (102.5 g) was dissolved in 90% ethanol (40 ml). To the solution were added triethylamine (106 g) and isatoic anhydride (74 g). The mixture was heated for 1.5 hour under reflux. The reaction mixture was concentrated, to which was added a saturated aqueous saline solution, followed by extraction with ethyl acetate (500 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave N-methyl-N-methyloxy-2-aminobenzamide (81 g) as a yellow oily product. This compound (6.8 g) and 1-[(tert-butoxycarbonylamino-1-methyl)ethyl]-3-bromobenzene (10 g) were dissolved in tetrahydrofuran (200 ml). The solution was cooled to −80° C. or below, to which was added dropwise, while stirring, n-butyl lithium (1.6 mol/L) (128 ml) over 1.5 hour. To the reaction mixture was added water (200 ml), which was subjected to extraction with ethyl acetate (300 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-amino-3′-(1-tert-butoxycarbonylamino-1-methyl)ethyl-benzophenone (2.2 g) as a yellow oily product.

reactant | N,O-Dimethylhydroxylamine | 102.5 g | CNOC | C2H7NO
reactant | triethylamine | 106 g | C(C)N(CC)CC | C6H15N
reactant | isatoic anhydride | 74 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-methyl-N-methyloxy-2-aminobenzamide | 81 g | CN(C(C1=C(C=CC=C1)N)=O)OC | C9H12N2O2
